// technology : Predictive Technology Models (PTM)
// device     : PMOS

simulator lang=spectre
global 0

parameters L=1.0u Vb=0.0 Vg=0.0 Vd=0.0 Vs=0.0 W=1.0u Vdd=1.2

include "ptm.scs"

//include "../pdk/130/ptm.scs"
//include "../pdk/090/ptm.scs"
//include "../pdk/065/ptm.scs"
//include "../pdk/045/ptm.scs"
//include "../pdk/032/ptm.scs"

save W L M temp \
     M0.m1:vds M0.m1:vgs M0.m1:vbs M0.m1:vdsat M0.m1:vth \
     M0.m1:gm M0.m1:id M0.m1:gds M0.m1:gmbs \
     M0.m1:self_gain M0.m1:fug M0.m1:gmoverid \
     M0.m1:cbb M0.m1:csb M0.m1:cdb M0.m1:cgb \
     M0.m1:css M0.m1:csd M0.m1:csg M0.m1:cds \
     M0.m1:cdd M0.m1:cdg M0.m1:cbs M0.m1:cbd \
     M0.m1:cbg M0.m1:cgd M0.m1:cgs M0.m1:cgg \

M0 (D G S B) nfet m=1 w=W l=L 

VD (D S) vsource dc=Vd type=dc
VG (G S) vsource dc=Vg type=dc
VS (S 0) vsource dc=Vs type=dc
VB (B S) vsource dc=Vb type=dc

simulatorOptions options save=selected rawfmt=nutbin

width sweep param=W start=150n stop=50u dec=2 {
    length sweep param=L start=100n stop=20u dec=5 {
        bulk sweep param=Vb start=Vs stop=-1.0 step=-0.2 {
            drain sweep param=Vd start=Vs stop=Vdd step=0.1 {
                dc dc param=Vg start=Vs stop=Vdd step=0.1 
            }
        }   
    }
}
